US05587161
To a solution of triphosgene (1 g) in chloroform (80 ml) was added at 10° C. 4-[N,N-bis-(2-chloroethyl)amino]anilinium chloride (2.7 g). Whilst keeping the temperature at 10° C., triethylamine (4.15 ml) was added and the mixture was stirred and allowed to warm to ambient temperature for 15 minutes. To this mixture was added in one portion dibenzyl glutamate tosylate and triethylamine (1.7 ml). After 1.5 hours at ambient temperature the mixture was diluted with chloroform (100 ml), washed twice with water, dried and evaporated to dryness. The residue was chromatographed on Merck silica gell Art 9385, eluting with ethyl acetate hexane to give dibenzyl 4[N,N-bis(2-chloroethyl)amino]-phenylcarbamoyl-L-glutamate (2.5 g). m.p. 119°-22° C.

reactant | triphosgene | 1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-[N,N-bis-(2-chloroethyl)amino]anilinium chloride | 2.7 g | [Cl-].ClCCN(CCCl)C1=CC=C([NH3+])C=C1
reactant | triethylamine | 4.15 ml | C(C)N(CC)CC | C6H15N
reactant | dibenzyl glutamate tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | dibenzyl 4[N,N-bis(2-chloroethyl)amino]-phenylcarbamoyl-L-glutamate | 2.5 g | ClCCN(CCCl)C(C[C@H](NC(NC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C30H33Cl2N3O5
